US05468733
Using the method of Example 1, Step A, valine methyl ester and 5-chloropentanoyl chloride were coupled to provide N-(5-chloropentanoyl)valine methyl ester.

reactant | valine methyl ester | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | 5-chloropentanoyl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-(5-chloropentanoyl)valine methyl ester | COC([C@@H](NC(CCCCCl)=O)C(C)C)=O | C11H20ClNO3
